US04940714
2-Benzoyl-8-fluoro-1H-imidazo[4,5-c]quinoline (I d-1)
To a suspension of 830 mg of 2-benzyl-8-fluoro-1H-imidazo[4,5-c]-quinoline (VII-1) in 50 ml of dioxane heated to 80° C. was added 1.07 g of selenium dioxide. The reaction mixture was refluxed for 1.5 hours. The resulting precipitate was immediately removed by filtration and concentrated under reduced pressure, and the residue obtained was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate. The organic layer was washed with water and saturated brine, and dried. The ethyl acetate was removed and the residue was chromatographed on a column of silica gel for purification. After elution with chloroform-methanol (30:1 v/v), 820 mg (yield 94%) of the compound (I d-1) was obtained as crystals. This was recrystallized from ethanol-chloroform to give light yellow crystals melting at 255°~256° C.

reactant | 2-benzyl-8-fluoro-1H-imidazo[4,5-c]-quinoline | 830 mg | C(C1=CC=CC=C1)C=1NC2=C(C=NC=3C=CC(=CC23)F)N1 | C17H12FN3
reactant | selenium dioxide | 1.07 g | [Se](=O)=O | O2Se
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-Benzoyl-8-fluoro-1H-imidazo[4,5-c]quinoline | 820 mg, yield 94% | C(C1=CC=CC=C1)(=O)C=1NC2=C(C=NC=3C=CC(=CC23)F)N1 | C17H10FN3O
